US07317025B2
trans-2-Phenyl-cyclopropanecarboxylic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide
To a solution of 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone (0.353 g, 1.01 mmol) in 50 mL of acetonitrile was added diisopropylethylamine (0.193 mL, 1.11 mmol) and trans-2-phenyl-1-cyclopropanecarbonyl chloride (90%, 0.174 mL, 1.01 mmol). The reaction mixture was stirred overnight, and then was filtered through diatomaceous earth. The filtrate was evaporated and the residue was chromatographed over silica gel (acetone/MeOH/CH2Cl2) to provide the desired product as a tan solid (0.30 g, 61%). 1H NMR (400 MHz, CDCl3): 8.04 (s, 1H), 7.38-6.98 (m, 9H), 6.97-6.82 (m, 2H), 6.76 (dd, J=12.5, 6.2 Hz, 1H), 4.65 (br t, J=12.7 Hz, 1H), 4.12 (t, J=9.5 Hz, 1H), 4.09-3.87 (m, 1H), 3.44 (s, 2H), 3.26-3.07 (m, 2H), 2.97-2.79 (m, 2H), 2.51-2.47 (m, 1H), 2.29-1.98 (m, 5H), 1.92-1.66 (m, 2H), 1.65-1.29 (m, 4H), 1.08-0.96 (m, 1H). MS: exact mass calculated for C32H35N3O2, 493.27; m/z found, 494.3 [M+H]+.

reactant | 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone | 1.01 mmol, 0.353 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C2CCN(C2=C1)C(C)=O | C22H27N3O
reactant | diisopropylethylamine | 1.11 mmol, 0.193 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | 1.01 mmol, 0.174 mL | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | trans-2-Phenyl-cyclopropanecarboxylic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide | 0.30 g, 61% | C(C)(=O)N1CCC2=CC=C(C=C12)N(C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1 | C32H35N3O2
